US05101048
Preparation of 3-cyanophenyl 5-thio-β-D-xylopyranoside (Example 27)
If the procedure described in Preparation LXXXIV is followed starting from 2.12 g (5.4.10-3 mol) of 3-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside and 0.2 ml of a solution of sodium methylate in methanol (8% w/v of Na), reacted in 60 ml of methanol for 30 min, 1.22 g (yield: 85%) of the expected product are obtained after precipitation in ether and lyophilization.

reactant | 3-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 2.12 g | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO7S
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | 3-cyanophenyl 5-thio-β-D-xylopyranoside | 1.22 g, yield: 85% | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)CS1)C1=CC(=CC=C1)C#N | C12H13NO4S
